datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH:62]1CC[CH:10]=[CH:11]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH:62]1CC[CH:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)[CH+:11]1 10,11=10,20"
"CC[O:72][C:11](=[CH:10][P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>CC[O:72][C:11]([CH:10]([C:20]1(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33])[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>COC1=CC=C([C:11]([CH2:10][C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)=[NH+:12][C:63](C)=[O:64])C=C1 10,11=10,20;12=11,12"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[C:63]([NH+:12]=[C:11]1CCC[CH:10]1[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)=[O:64] 10,11=10,20;12=11,12"
"CC1=[N:10]CCC1.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC1=[N+:10]([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCC1 10=20;20,21=21,22;22,23=23"
"F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1.[CH:10](=[N+:11]=[N-:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([CH:10]([N+:11]#[N:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20;12=11,12"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CC1=CC=[C:10]([B-:11]2(C3=CC=CC=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CC1=CC=[C:10]([C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)S1 10,11=10,20;12=11,12;20,21=21"
"C1CC[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)C1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[N:21](C)[CH:20]([N:10]1[CH:11]=[CH:12][C:13](=[N+:14]2CCCC2)[CH:62]=[CH:61]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[C:11](=[CH2:10])[C:62](C)=[CH2:63].C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C+:11]([CH2:10][CH2:20][CH:21]=[C:22]([O-:23])[N:33](C)C)[C:62](C)=[CH2:63] 10,11=10,20;20,21=21,22;22,23=23"
"CC[C:12]1=[C:13](C)[NH:14][CH:10]=[C:11]1C.COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+]>>CC[C:12]1=[C:11](C)[CH:10]([CH:20]2CC3C4(OC)C5C2[Fe-3:21]354(C#[O+])(C#[O+])C#[O+])[NH+:14]=[C:13]1C 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CN1CCCC1[C:62]1=[CH:63][CH:72]=[CH:71][N:10]=[CH:61]1>>CN1CCCC1[C:62]1=[CH:63][CH:72]=[CH:71][N+:10]([CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:61]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]1>>Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([CH:10]([N+:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]2)([O-:21])[C:41](Cl)=[C:42]1Cl 10=20;20,21=21"
CO[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:10]1([C:20]([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20
